US05296495
A mixture of 4-tert-butyl-2-[5-(2,2-diethoxycarbonylethyl)benzofuran-2-yl]thiazole (3.99 g) and conc. hydrochloric acid (20 ml) was stirred under reflux for 6 hours. After being cooled, the resulting mixture was extracted with ethyl acetate. The extract was allowed to stand until there were no further precipitates separated out. The precipitates were collected by filtration and washed with ethyl acetate to give 4-tert-butyl-2-[5-(2,2-dicarboxyethyl)benzofuran-2-yl]thiazole (0.96 g).

reactant | 4-tert-butyl-2-[5-(2,2-diethoxycarbonylethyl)benzofuran-2-yl]thiazole | 3.99 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CC(C(=O)OCC)C(=O)OCC | C23H27NO5S
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | 4-tert-butyl-2-[5-(2,2-dicarboxyethyl)benzofuran-2-yl]thiazole | 0.96 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CC(C(=O)O)C(=O)O | C19H19NO5S
